US08426411B2
To a solution of N-benzyl-1-methoxy-N-((trimethylsilyl)methyl)methanamine (9.98 mL, 39.0 mmol), and (Z)-ethyl pent-2-enoate (5 g, 39.0 mmol, Preparation #RRR.1) in DCM (50 mL) was added TFA (0.030 mL, 0.390 mmol) at rt. After about 2 d, the reaction mixture was concd in vacuo to provide crude cis-ethyl 1-benzyl-4-ethylpyrrolidine-3-carboxylate (9.8 g, 96%) as an oil. LC/MS (Table 1, Method a) Rt=0.51 min; MS m/z: 262 (M+H)+.

reactant | N-benzyl-1-methoxy-N-((trimethylsilyl)methyl)methanamine | 39.0 mmol, 9.98 mL | C(C1=CC=CC=C1)N(COC)C[Si](C)(C)C | C13H23NOSi
reactant | (Z)-ethyl pent-2-enoate | 39.0 mmol, 5 g | C(\C=C/CC)(=O)OCC | C7H12O2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | TFA | 0.390 mmol, 0.030 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | cis-ethyl 1-benzyl-4-ethylpyrrolidine-3-carboxylate | 9.8 g, 96% | C(C1=CC=CC=C1)N1C[C@H]([C@H](C1)CC)C(=O)OCC | C16H23NO2
